US08877974B2
A mixture of (2R,3R)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine and (2R,3S)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine (10 kg, 42.56 mol, ratio 5.5:1) was dissolved in acetone (50 L) in a 100 L double jacket vessel equipped with an electrical impeller stirrer, a gas transition line, Pt100 temperature measuring equipment and an oil based cooling/heating system. Hydrogen chloride (1.55 kg, 42.51 mol) was transferred within 15 minutes at a temperature of 5° C. to 25° C. through the reaction mixture. The reaction mixture was cooled to 0° C. to 5° C. and centrifuged after 2 hours of stirring. The humid solid was put into a stirring vessel, acetone (30 L) was added and the reaction mixture was heated to reflux for 15 minutes. After cooling to 15° C. to 20° C. the product was centrifuged and stored at 40° C. to 50° C. and 150 mbar for 14 hours in a drying oven. (2R,3R)-3-(3-Methoxyphenyl)-N,N,2-trimethylpentan-1-amine hydrochloride (7.17 kg, 63%) was obtained as a colorless solid with a diastereomeric excess of 100%.

reactant | (2R,3R)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine | COC=1C=C(C=CC1)[C@@H]([C@H](CN(C)C)C)CC | C15H25NO
reactant | (2R,3S)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine | 42.56 mol, 10 kg | COC=1C=C(C=CC1)[C@H]([C@H](CN(C)C)C)CC | C15H25NO
reactant | Pt100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | Hydrogen chloride | 42.51 mol, 1.55 kg | Cl | ClH
solvent | acetone | 50 L | CC(=O)C | C3H6O
solvent | acetone | 30 L | CC(=O)C | C3H6O
product | (2R,3R)-3-(3-Methoxyphenyl)-N,N,2-trimethylpentan-1-amine hydrochloride | 7.17 kg, 63% | Cl.COC=1C=C(C=CC1)[C@@H]([C@H](CN(C)C)C)CC | InChI=1S/C15H25NO.ClH/c1-6-15(12(2)11-16(3)4)13-8-7-9-14(10-13)17-5;/h7-10,12,15H,6,11H2,1-5H3;1H/t12-,15+;/m0./s1
